Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female transferred from ___ with a small
right intraparenchymal hemorrhage. She states that she has been
experiencing frequent falls over the past several months which
she attributes to progressive bilateral lower extremity 
weakness.
She states that she has fallen approximately 5 times over the
past couple of months. She was out of bed last night and stated
that her bilateral lower extremities became weak and she fell.
She struck her left elbow and her head. She denies any LOC prior
to or after the fall. She denies any chest pain, shortness of
breath or any syncopal symptoms. She was able to stand on her 
own
and ambulate after her fall. Her son arrived at her house the
next day and brought her to the hospital for evaluation. A head
CT was obtained at ___ and showed the small right 
IPH
and she was transferred to ___ for further evaluation.

 
Past Medical History:
Depression
Anxiety
h/o collapsed lung
h/o colon CA s/p resection
s/p basal cell carcinoma
bilateral cataracts
s/p multiple surgeries of which the patient is unable to recall
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
UPON DISCHARGE: 
 
Pertinent Results:
===================
ADMISSION LABS
===================

___ 11:30AM BLOOD WBC-10.1* RBC-3.83* Hgb-12.5 Hct-36.9 
MCV-96 MCH-32.6* MCHC-33.9 RDW-11.9 RDWSD-42.1 Plt ___
___ 11:30AM BLOOD Neuts-78.6* Lymphs-9.3* Monos-11.0 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-7.92* AbsLymp-0.94* 
AbsMono-1.11* AbsEos-0.03* AbsBaso-0.02
___ 11:30AM BLOOD ___ PTT-28.1 ___
___ 11:30AM BLOOD Glucose-95 UreaN-25* Creat-0.9 Na-137 
K-3.8 Cl-100 HCO3-21* AnGap-20
___ 11:30AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.8
___ 11:30AM URINE Color-Yellow Appear-Hazy Sp ___
___ 11:30AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:30AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 11:30AM URINE CastHy-28*
___ 11:30AM URINE Mucous-RARE
.
.
==============
STUDIES
==============
___
ANKLE XRAY
  
Distal fibular regularity concerning for fracture, although a 
diffuse 
osteopenia limits evaluation.  This is of unclear chronicity. 
.
.
CT CHEST WITH CONTRAST
1.  No evidence of acute injury within the chest. 
2.  1.1 cm spiculated nodule in the right upper lobe with 
background severe 
emphysema, concerning for neoplasm.  A PET-CT is recommended for 
further 
evaluation.  In addition, prior studies, if available, would be 
helpful for 
comparison. 
3.  Mild mediastinal lymphadenopathy.  Prominent right hilar 
soft tissue. 
4.  Mucous plugging in small airways in the right lower lobe and 
the lingula 
with nodular opacities which could reflect chronic 
inflammation/aspiration. 
  
RECOMMENDATION(S):  PET-CT is recommended for for evaluation of 
the 1.1 cm 
lung nodule. 
.
.
CTA HEAD AND NECK
  
1. Punctate hyperdensity in the right frontal lobe in keeping 
with an 
intraparenchymal hemorrhage.  There is no evidence of arterial 
phase contrast 
enhancement.  However, underlying intracranial metastasis or 
other is not 
completely excluded.  Further evaluation with MRI with without 
contrast is 
recommended. 
2. 5 mm inferiorly directed aneurysm at the right MCA 
bifurcation. 
3. Atherosclerosis involving bilateral carotid bifurcations 
without any 
stenosis by NASCET criteria. 
4. Otherwise unremarkable CTA of head and neck, allowing for 
common anatomic 
variations. 
5. Please refer to separate dictation of CT chest for chest 
findings, 
especially the partially visualized spiculated right upper lobe 
lung nodule. 
.
.
L AP AND LATERAL XRAY OF TIB/FIB
A distal left fibular fracture is better evaluated on dedicated 
ankle 
radiographs on the same day.  No other fracture or dislocation 
identified. 
.
.
___
MRI BRAIN
  
1. 1 cm focus of gradient echo susceptibility in the right 
frontal lobe 
corresponding to the hyperdensity seen on recent prior head CT.  
The lesion on 
T2 demonstrates peripheral rim of hypointensity and central 
hyperintensity 
with equivocal subtle enhancement on postcontrast images.  An 
associated 
apparent developmental venous anomaly is identified.  The 
constellation of 
findings would suggest a cavernous malformation, however given 
the equivocal 
enhancement and spiculated right lung nodule seen on prior 
examination, 
short-term followup is recommended to exclude metastatic 
disease. 
2. No acute intracranial infarct. 
3. Findings of age-related involutional changes with small 
vessel ischemic 
disease. 
4. 6 mm aneurysm at the right MCA bifurcation, better evaluated 
on recent 
prior CTA of the head. 

___ CXR
1. Increased interstitial markings in the right lung suggesting 
chronic 
infection or aspiration no focal consolidation. 
2. Unchanged moderate hyperexpansion. 
3. Known spiculated right upper lobe mass is not identified. 

___ LENIs
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ CTA chest
1. No evidence of pulmonary embolism. 
2. Moderate centrilobular emphysema, upper lobe predominant. 
3. Significant endobronchial secretions at the level of the 
carina, extending to the right lower lobe leading to partial 
lobar collapse and significant mucous plugging, progressed since 
the prior CT from ___. Stable biapical scarring. 
5. Unchanged spiculated nodule in the right upper lobe (3:83), 
warrants close interval followup. 

___ CXR
In comparison with the in study of ___, there is little 
change in the 
prominent interstitial markings throughout both lungs, 
especially at the right base.  Extensive apical pleural 
thickening fibrosis is unchanged. 

 
Brief Hospital Course:
On ___, the patient fell overnight. She was transferred to an 
OSH ED in the morning according to her son. Her CT head revealed 
a right IPH, and she was therefore transferred to ___ for 
further evaluation. Her CT/CTA showed a hyperdense rounded 
lesion in R temp lobe measuring 7mm and a 7mm hyperdensity in 
the internal capsule. CTA showed 6mm R M1 bifurcation. She 
additionally complained of left ankle pain, and was found to 
have a left fibula fracture. 

On ___, the patient's neurological examination was stable. She 
was fitted with an aircast boot for her left fibula fracture and 
was seen by physical therapy, who felt that she would benefit 
from an occupational therapy consult and additional ___. Pt had 
Brain MRI which showed that the R frontal lobe hyperdensity on 
recent head CT was most likely cavernous malformation but due to 
equivocal contrast enhancement with speculated R lung nodule, 
short term follow up MRI was recommended to exclude metastatic 
disease. The scan also showed small vessel disease and confirmed 
R MCA aneurysm. 

On ___, pt's neurologic exam was stable. OT was consulted and 
recommended acute rehab. Ortho had recommended aircast and WBAT 
as well as follow up with ___ clinic in 2 weeks. The patient 
complained of SOB and so CXR, CTA, and US were ordered.  CXR and 
CTA showed emphysema and a lung nodule.  LENIs were negative for 
DVT and CTA was negative for PE.

On ___, the patient remained neurologically and hemodynamically 
stable.  She continue to work with ___.  She had some confusion 
overnight and was likely sundowning as she is much more clear 
this morning.  She denies any HA, nausea, or dizziness.  She is 
currently stable and will be discharged to rehab this afternoon.

 
Medications on Admission:
Zoloft 100mg PO QPM; Alprazolam 1mg PO TID PRN anxiety
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC BID 
5. LeVETiracetam 500 mg PO BID 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Sertraline 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cavernoma, and right M1 bifurcation aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___